US04563534
A mixture of 40.8 g of acetic anhydride and 8.4 g of formic acid was stirred at 40° to 45° C. for 1 hour. To the resulting mixture was added 20.2 g of 2-(2-aminothiazol-4-yl)thioglyoxylic S-acid metyl ester, with water-cooling, after which the resulting mixture was stirred at 25° C. for 1 hour. Subsequently, 60 ml of water was added dropwise to the thus obtained reaction mixture with ice-cooling, after which the resulting mixture was stirred with water-cooling for 30 minutes, and the deposited crystals were collected by filtration. The crystals were washed successively with water and acetone and then dried to obtain 21.9 g (94.4% yield) of 2-(2-formylaminothiazol-4-yl)thioglyoxylic S-acid methyl ester having a melting point of above 230° C.

reactant | acetic anhydride | 40.8 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 8.4 g | C(=O)O | CH2O2
reactant | 2-(2-aminothiazol-4-yl)thioglyoxylic S-acid metyl ester | 20.2 g | CSC(C(=O)C=1N=C(SC1)N)=O | C6H6N2O2S2
solvent | water | O | H2O
solvent | water | 60 ml | O | H2O
product | 2-(2-formylaminothiazol-4-yl)thioglyoxylic S-acid methyl ester | 21.9 g, 94.4% yield | CSC(C(=O)C=1N=C(SC1)NC=O)=O | C7H6N2O3S2
